US07612075B2
4-(Benzyloxycarbonyl)-3-(S)-methylpiperazin-2-one (1.0 g, 4.0 mmol), EXAMPLE 46, is dissolved in THF (60 mL), cooled in an ice bath and treated with tretrabutylammonium iodide (0.10 g, 0.27 mmol) and 60% sodium hydride (0.18 g, 4.4 mmol). The reaction mixture is stirred at 0° C. for 30 minutes then treated dropwise with a solution of 7-bromomethyl-4-chloroquinoline (1.12 g, 4.4 mmol), EXAMPLE 14, in THF (5 mL). The resulting solution warmed to room temperature over approximately 1 h then quenched with sodium bicarbonate solution and concentrated. The residue is partitioned between ethyl acetate and water; the organic layer is dried (sodium sulfate) and concentrated. The residue is chromatographed (5% methanol/methylene chloride) to yield solid 4-(Benzyloxycarbonyl)-1-(4-chloroquinolin-7-ylmethyl)-3-(S)-methyl-piperazin-2-one (1.32 g, 3.1 mmol). A portion of this material (0.10 g, 0.23 mmol) is dissolved in acetonitrile (6 mL) and treated with iodotrimethyl-silane (0.1 mL, 0.75 mmol) at room temperature for 2 hours. The reaction is quenched with methanol and concentrated to dryness. Methanol addition and concentration is repeated six times. The final residue is taken up is 2M aqueous HCl; the solution is washed with ether and concentrated to yield the title compound. MS m/z: M+=289; 1H NMR (CD3OD, 300 MHz) δ9.2 (d, 1H), 8.6 (d, 1H), 8.2-8.3 (m, 2H), 8.0 (d, 1H), 5.1 (q, 1H), 4.3-4.4 (m, 1H), 3.8-4.0 (m, 2H), 3.6-3.8 (m, 3H), 1.75 (d, 3H).

reactant | 4-(Benzyloxycarbonyl)-3-(S)-methylpiperazin-2-one | 4.0 mmol, 1.0 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(NCC1)=O)C | C13H16N2O3
reactant | iodide | 0.27 mmol, 0.10 g | [I-]
reactant | sodium hydride | 4.4 mmol, 0.18 g | [H-].[Na+]
reactant | 7-bromomethyl-4-chloroquinoline | 4.4 mmol, 1.12 g | BrCC1=CC=C2C(=CC=NC2=C1)Cl | C10H7BrClN
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-(Benzyloxycarbonyl)-1-(4-chloroquinolin-7-ylmethyl)-3-(S)-methyl-piperazin-2-one | 3.1 mmol, 1.32 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(N(CC1)CC1=CC=C2C(=CC=NC2=C1)Cl)=O)C | C23H22ClN3O3
